US04943637
The same procedure as in Example 1 was repeated, except that n-butanol 80 g was replaced by n-propanol 80 g, and that 2-nitro-2'-hydroxy-3',5'-di-t-amylazobenzene 25.5 g was replaced by 2-nitro-2'-hydroxy-5-methylazobenzene 17.1 g, thus producing 14.1 g of 2-(2-hydroxy-5-methylphenyl)benzotriazole-N-oxide having a melting point of 138° to 140° C. at the yield of 88%.

reactant | n-butanol | 80 g | C(CCC)O | C4H10O
reactant | 2-nitro-2'-hydroxy-3',5'-di-t-amylazobenzene | 25.5 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C)(C)CC)C(C)(C)CC)O | C22H29N3O3
reactant | 2-nitro-2'-hydroxy-5-methylazobenzene | 17.1 g | [N+](=O)([O-])C1=C(C=C(C=C1)C)N=NC1=C(C=CC=C1)O | C13H11N3O3
solvent | n-propanol | 80 g | C(CC)O | C3H8O
product | 2-(2-hydroxy-5-methylphenyl)benzotriazole-N-oxide | 14.1 g, yield of 88% | OC1=C(C=C(C=C1)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C13H11N3O2
